* C:\Users\Michael\Google Drive\Studium\SS20\HLST-Praktikum-Summer-2020\simulations\7_Leistungsendstufe\Bias.asc
V1 N001 0 15
V2 0 N003 15
V3 basis 0 SINE(0 5 1k)
R1 last 0 1k
XU2 N001 N002 last TIP122
XU1 N003 basis last TIP127
V4 N002 basis {V4}
.tran 0 0.5 0 1e-6
.param V4=0
.four 1kHz V(last)
.lib TIP122.lib
.lib TIP127.lib
.backanno
.end
